US07807690B2
(3e) {2-[4-Bromo-3-(t-butoxycarbonylaminomethyl)phenylimino]-2-(5-ethyl-2-fluoro-3-hydroxyphenyl)-1-methylsulfanylethylidene}carbamic Acid Methyl Ester
To a mixture of {2-[4-bromo-3-(t-butoxycarbonylaminomethyl)phenylimino)-2-[3-(t-butyldimethylsilanyloxy)-5-ethyl-2-fluorophenyl]-1-methylsulfanylethylidene}carbamic acid methyl ester (686 mg) and THF (25 mL) there was added a 1M THF solution (1.18 mL) of tetrabutylammonium fluoride at 0° C., under a nitrogen atmosphere. The mixture was stirred at 0° C. for 2 hours, and then ethyl acetate (200 mL) and water (100 mL) were added. The mixture was sufficiently shaken, and then the organic layer was separated off, washed twice with water (100 mL) and then with saturated aqueous sodium chloride (100 mL) in that order, and dried over anhydrous magnesium sulfate. The mixture was filtered to obtain a filtrate, and the solvent in the filtrate was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate-heptane mixture) to obtain the target compound (542 mg) as a colorless solid.

reactant | {2-[4-bromo-3-(t-butoxycarbonylaminomethyl)phenylimino)-2-[3-(t-butyldimethylsilanyloxy)-5-ethyl-2-fluorophenyl]-1-methylsulfanylethylidene}carbamic acid methyl ester | 686 mg | COC(N=C(C(C1=C(C(=CC(=C1)CC)O[Si](C)(C)C(C)(C)C)F)=NC1=CC(=C(C=C1)Br)CNC(=O)OC(C)(C)C)SC)=O | C31H43BrFN3O5SSi
reactant | THF | 25 mL | C1CCOC1 | C4H8O
reactant | THF | 1M, 1.18 mL | C1CCOC1 | C4H8O
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 100 mL | O | H2O
product | {2-[4-Bromo-3-(t-butoxycarbonylaminomethyl)phenylimino]-2-(5-ethyl-2-fluoro-3-hydroxyphenyl)-1-methylsulfanylethylidene}carbamic Acid Methyl Ester | 542 mg | COC(N=C(C(C1=C(C(=CC(=C1)CC)O)F)=NC1=CC(=C(C=C1)Br)CNC(=O)OC(C)(C)C)SC)=O | C25H29BrFN3O5S
